US08664401B2
Step E) (2R)—N-Hydroxy-2-methyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanamide
HCl (4.0 N in 1,4-dioxane, 20 mL) was added to a solution of (2R)-2-Methyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (5.15 g, 11.5 mmol) in 1,4-dioxane (100 mL) and water (20 mL). The reaction was continued for 2 hours. The reaction was concentrated in vacuo, upon concentration a white solid precipitated. The solid was triturated with 2-propanol (150 mL) at 50° C. for 30 minutes then collected by filtration. The title compound was obtained as a white solid (3.85 g, 92%) LC-MS m/z 365.5 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.58 (s, 3H) 2.10-2.23 (m, 1H) 2.37-2.48 (m, 1H) 3.11 (s, 3H) 3.69-3.82 (m, 1H) 4.04-4.19 (m, 1H) 6.63-6.68 (m, 1H) 6.70 (d, J=1.76 Hz, 1H) 7.41-7.55 (m, 3H) 7.68-7.75 (m, 2H) 7.77 (d, J=6.83 Hz, 1H) 11.17 (br. s., 1H).

reactant | HCl | 4.0 N, 20 mL | Cl | ClH
reactant | (2R)-2-Methyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 11.5 mmol, 5.15 g | C[C@](C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C22H28N2O6S
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | (2R)—N-Hydroxy-2-methyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanamide | ONC([C@@](CCN1C(C=C(C=C1)C1=CC=CC=C1)=O)(S(=O)(=O)C)C)=O | C17H20N2O5S
